US05021435
n-Butyllithium solution (5 ml, 8 mmol) in hexane was added dropwise to a solution of diisopropylamine (1.42 ml, 7.96 mmol) in dry tetrahydrofuran at -30° to -40° C. The mixture was kept between those temperatures for 1 hour and then cooled to -78° C. Thereto was added dropwise a solution of 3-(2-dimethylaminoethyl)-2-(3-pyridyl)thiazolidin-4-one (2 g, 7.96 mmol) in dry tetrahydrofuran (10 ml). This reaction mixture was kept at that temperature for 1 hour. Then, ethyl iodide (1.24 g, 7.96 mmol) was added, and this reaction mixture was slowly warmed up to room temperature and maintained there for 30 minutes. The resulting mixture, after addition of aqueous NaCl, was extracted with ethyl acetate. The extract was washed with aqueous NaCl, dried, and concentrated by evaporation under reduced pressure. The residue was purified by column chromatography, giving 5-ethyl-3-(2-dimethylaminoethyl)-2-(3-pyridyl)thiazolidin-4-one (1.84 g, 83% yield).

reactant | n-Butyllithium | 8 mmol, 5 ml | C(CCC)[Li]
reactant | diisopropylamine | 7.96 mmol, 1.42 ml | C(C)(C)NC(C)C | C6H15N
reactant | 3-(2-dimethylaminoethyl)-2-(3-pyridyl)thiazolidin-4-one | 7.96 mmol, 2 g | CN(CCN1C(SCC1=O)C=1C=NC=CC1)C | C12H17N3OS
reactant | ethyl iodide | 7.96 mmol, 1.24 g | C(C)I | C2H5I
reactant | NaCl | [Na+].[Cl-]
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 5-ethyl-3-(2-dimethylaminoethyl)-2-(3-pyridyl)thiazolidin-4-one | 1.84 g, 83% yield | C(C)C1C(N(C(S1)C=1C=NC=CC1)CCN(C)C)=O | C14H21N3OS
